US06498170B2
1-(4-Butoxy-benzenesulfonyl)-pyrrolidin-3-ol
To a solution of DL-3-pyrrolidinol (0.87 g, 10 mmol) in dichloromethane (10 ml) was added triethylamine (1.21 g, 12 mmol) and 4-butoxybezenesulfonyl chloride (2.69 g, 10.5 mmol). The mixture was stirred at room temperature for 2 h. It was then treated with 10 ml of saturated sodium carbonate solution for 18 h. The mixture was diluted with water, and the organic solvents were evaporated. The resulting suspension was filtered, and the precipitate was washed with water and hexanes, and dried to give 2.89 g of an off-white solid; m.p. 83-84° C.; MS (ES) m/z 299.9 (MH+); HRMS (Cl) Calcd. for C14H22NO4S (MH+): 300.1269, Found: 300.1272.

reactant | DL-3-pyrrolidinol | 10 mmol, 0.87 g | C1CNCC1O | C4H9NO
reactant | triethylamine | 12 mmol, 1.21 g | C(C)N(CC)CC | C6H15N
reactant | 4-butoxybezenesulfonyl chloride | 10.5 mmol, 2.69 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-(4-Butoxy-benzenesulfonyl)-pyrrolidin-3-ol | 2.89 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(CC1)O | C14H21NO4S
